US08980891B2
3-Methoxy-N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenyl]-benzamide hydrate
100 mg of 4-(2-(4-(3-methoxybenzamido)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethyl)morpholin-4-ium chloride were added to 3 mL of H2O in a 4 mL vial. The solution was stirred until it became clear. 225 μL of 1 N NaOH was added to the vial to reach a pH of ˜8. A white precipitate formed. The solution was stirred for 1 hour at room temperature. The crystalline materials formed on the side of the vial were scraped off, and the solution was filtered using centrifuge tube filters. The material was dried overnight in the hood.

reactant | 4-(2-(4-(3-methoxybenzamido)-2-(1-methyl-1H-pyrazol-5-yl)phenoxy)ethyl)morpholin-4-ium chloride | 100 mg | [Cl-].COC=1C=C(C(=O)NC2=CC(=C(OCC[NH+]3CCOCC3)C=C2)C2=CC=NN2C)C=CC1
reactant | NaOH | 1 N, 225 μL | [OH-].[Na+]
solvent | H2O | 3 mL | O | H2O
product | 3-Methoxy-N-[3-(2-methyl-2H-pyrazol-3-yl)-4-(2-morpholin-4-yl-ethoxy)-phenyl]-benzamide hydrate | O.COC=1C=C(C(=O)NC2=CC(=C(C=C2)OCCN2CCOCC2)C=2N(N=CC2)C)C=CC1 | InChI=1S/C24H28N4O4.H2O/c1-27-22(8-9-25-27)21-17-19(26-24(29)18-4-3-5-20(16-18)30-2)6-7-23(21)32-15-12-28-10-13-31-14-11-28;/h3-9,16-17H,10-15H2,1-2H3,(H,26,29);1H2
